US07932246B2
tert-Butyl 6-nitro-3-azabicyclo[3.1.0]hexane-3-carboxylate
6-Nitro-3-azabicyclo[3.1.0]hexane hydrochloride (464 mg, 2.82 mmol) was suspended in dry DCM (10 ml) and cooled to 0° C. Boc2O (677 mg, 3.10 mmol) was added followed by DMAP (1 crystal) and Et3N (0.43 ml, 3.10 mmol). The reaction mixture was stirred at r.t. for 5 h. The solvent was removed under reduced pressure to give a white solid. Purification by flash chromatography (25% EtOAc in heptane) gave the title compound as a white solid (592 mg, 92%). 1H NMR (300 MHz, CDCl3) δ: 1.45 (9H, s), 2.65 (2H, s), 3.50 (2H, d), 3.75 (2H, q), 4.10 (1H, t).

reactant | 6-Nitro-3-azabicyclo[3.1.0]hexane hydrochloride | 2.82 mmol, 464 mg | Cl.[N+](=O)([O-])C1C2CNCC12
reactant | Boc2O | 3.10 mmol, 677 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 3.10 mmol, 0.43 ml | CCN(CC)CC | C6H15N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 6-nitro-3-azabicyclo[3.1.0]hexane-3-carboxylate | 592 mg, 92% | [N+](=O)([O-])C1C2CN(CC12)C(=O)OC(C)(C)C | C10H16N2O4
